US04837325
2-[3-[4-[3-Fluorobenzyl]-1-piperazinyl]propyl]-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
Following the procedure of Example 1, 2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole is alkylated with 1,3-dibromopropane. The intermediate 2,3,4,9-tetrahydro-2-(3-bromopropyl)-1H-pyrido[3,4-b]indole is then reacted with 1-[3-(trifluoromethyl)benzyl]piperazine to obtain the title compound.

reactant | 2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | 2,3,4,9-tetrahydro-2-(3-bromopropyl)-1H-pyrido[3,4-b]indole | BrCCCN1CC=2NC3=CC=CC=C3C2CC1 | C14H17BrN2
reactant | 1-[3-(trifluoromethyl)benzyl]piperazine | FC(C=1C=C(CN2CCNCC2)C=CC1)(F)F | C12H15F3N2
product | 2-[3-[4-[3-Fluorobenzyl]-1-piperazinyl]propyl]-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | FC=1C=C(CN2CCN(CC2)CCCN2CC=3NC4=CC=CC=C4C3CC2)C=CC1 | C25H31FN4
